US08252802B2
2-Chloro-1H-benzo[d]imidazole (20 g, 131.08 mmol) was charged to high pressure autoclave PV10832 (Hastelloy 450 ml) with methylamine (260 mL, 131.08 mmol) and sealed on its trolley and the resulting solution heated to 160° C. in high pressure blast cell 60 for 16 hours. The pressure in the autoclave reached 11 bar. The solvent was removed under reduced pressure to afford a brown oil. EtOH was added and the solvent again removed to afford a brown foam. The foam was dissolved in a minimum of hot acetone. This was then allowed to cool. The resultant solid was filtered affording N-methyl-1H-benzo[d]imidazol-2-amine (9.91 g, 51%); 1H NMR (400 MHz, DMSO-d6) 2.83 (3H, s), 6.87-7.00 (2H, m), 7.05-7.25 (2H, m), 7.49 (1H, s).

reactant | 2-Chloro-1H-benzo[d]imidazole | 131.08 mmol, 20 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | methylamine | 131.08 mmol, 260 mL | CN | CH5N
reactant | EtOH | CCO | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | N-methyl-1H-benzo[d]imidazol-2-amine | 9.91 g, 51% | CNC1=NC2=C(N1)C=CC=C2 | C8H9N3
